US06331556B2
7-Methoxy-2-methoxymethylbenzofuran
Sodium hydride (3.82 g, 60% in mineral oil) was added to a solution of 7-methoxy-benzofuran-2-ylmethanol (11.21 g) in dry tetrahydrofuran (300 ml) under an atmosphere of dry nitrogen at room temperature. After 10 minutes iodomethane (15.67 ml) was added and the reaction was left to stir overnight. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (100 ml) and water (50 ml). The organic extract was washed with water (50 ml), followed by brine (50 ml), dried over magnesium sulphate, filtered and the solvent removed in vacuo to afford the title compound (13.32 g) as a yellow oil.

reactant | Sodium hydride | 3.82 g | [H-].[Na+]
reactant | 7-methoxy-benzofuran-2-ylmethanol | 11.21 g | COC1=CC=CC=2C=C(OC21)CO | C10H10O3
reactant | iodomethane | 15.67 ml | IC | CH3I
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-2-methoxymethylbenzofuran | 13.32 g | COC1=CC=CC=2C=C(OC21)COC | C11H12O3
